US07994185B2
Step B: N-{2-Fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(methylthio)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-1-methyl-1H-imidazole-4-sulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-4-sulfonamide (75 mg, 0.152 mmol) and [3-(methylthio)propyl]amine (86 mg, 0.817 mmol) the title compound of Step B was obtained as a golden oil (76 mg, 89% yield). MS (ESI): 561.4 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-imidazole-4-sulfonamide | 0.152 mmol, 75 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C=1N=CN(C1)C)F | C20H18ClFN6O2S2
reactant | [3-(methylthio)propyl]amine | 0.817 mmol, 86 mg | CSCCCN | C4H11NS
product | N-{2-Fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(methylthio)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-1-methyl-1H-imidazole-4-sulfonamide | FC1=C(C=C(C=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCCSC)C(C)C)NS(=O)(=O)C=1N=CN(C1)C | C24H28FN7O2S3
